US05135937
9 g of crude 4-[2-hydroxyadamant-2-yl-1-(1,2,4-triazolyl)methyl]benzonitrile is dissolved at 0° in 50 ml of dichloromethane and stirred at 0° with 24 ml of thionyl chloride for 1 hour. Then the mixture is concentrated to dryness in an oil pump vacuum, dissolved in 50 ml of dichloromethane, stirred for 2 hours with 32 ml of triethylamine, diluted with water, extracted three times with ethyl acetate, washed with sodium chloride solution, dried over sodium sulfate, concentrated to dryness under vacuum, and chromatographed on silica gel with hexane/ethyl acetate, yielding 5.3 g of 4-[2-adamantylidene-1-(1,2,4triazolyl)methyl]benzonitrile as the free base, mp 130°, which is converted with hydrochloric acid into the hydrochloride, mp 105°.

reactant | 4-[2-hydroxyadamant-2-yl-1-(1,2,4-triazolyl)methyl]benzonitrile | 9 g | OC1(C2CC3CC(CC1C3)C2)C(C2=NNC=N2)C2=CC=C(C#N)C=C2 | C20H22N4O
reactant | thionyl chloride | 24 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[2-adamantylidene-1-(1,2,4triazolyl)methyl]benzonitrile | 5.3 g | C12C(C3CC(CC(C1)C3)C2)=C(C2=NNC=N2)C2=CC=C(C#N)C=C2 | C20H20N4
